US06462198B1
9H-Xanthene-9-carboxylic acid (3-methyl-[1,2,4]oxadiazol-5-yl)-amide
The title compound, white solid, m.p. 208° C. and MS: m/e=307 (M+) was prepared in accordance with the general method of example 44a from 3-methyl-[1,2,4]oxadiazol-5-ylamine and 9H-xanthene-carboxylic acid chloride.

reactant | 3-methyl-[1,2,4]oxadiazol-5-ylamine | CC1=NOC(=N1)N | C3H5N3O
reactant | 9H-xanthene-carboxylic acid chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 9H-Xanthene-9-carboxylic acid (3-methyl-[1,2,4]oxadiazol-5-yl)-amide | CC1=NOC(=N1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C17H13N3O3
